### PR TITLE
[Merged by Bors] - feat(Order/Nucleus): nuclei form a complete lattice

### PR DESCRIPTION
**Pull request by Bergschaf**
Arbitrary meets of nuclei can be defined pointwise. Joins are harder to describe explicitely, so `completeLatticeOfCompleteSemilatticeInf` is used to create the `CompleteLattice` instance.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Nucleus.lean [hunk 1]
```diff
@@ -111,4 +111,43 @@ instance : BoundedOrder (Nucleus X) where
   bot_le _ _ := le_apply
   le_top _ _ := by simp
 
+
```
Comment (YaelDillies) [inline Mathlib/Order/Nucleus.lean:114]:
```suggestion
```

File: Mathlib/Order/Nucleus.lean [hunk 2]
```diff
@@ -111,4 +111,43 @@ instance : BoundedOrder (Nucleus X) where
...
+/-- The function of the Nucleus corresponding to the infimum of `s` -/
+def sInf_fun (s : Set (Nucleus X)) (x : X) := sInf {j x | j ∈ s}
```
Comment (YaelDillies) [inline Mathlib/Order/Nucleus.lean:116]: This is just
```suggestion
def sInf_fun (s : Set (Nucleus X)) (x : X) := ⨅ j ∈ s, j x
```
Can you inline?

File: Mathlib/Order/Nucleus.lean [hunk 3]
```diff
@@ -111,4 +111,43 @@ instance : BoundedOrder (Nucleus X) where
...
+    forall_apply_eq_imp_iff₂, le_inf_iff]
+    intro a ha
+    constructor
+    · apply inf_le_of_left_le
+      simp_all [sInf_le_iff, lowerBounds]
+    · apply inf_le_of_right_le
+      simp_all [sInf_le_iff, lowerBounds]
+
+instance : InfSet (Nucleus X) where
+  sInf s := ⟨⟨sInf_fun s, sInf_fun_map_inf⟩, sInf_fun_idempotent, (by simp[sInf_fun,le_apply])⟩
```
Comment (YaelDillies) [inline Mathlib/Order/Nucleus.lean:145]: In fact, can you inline all this in the `CompleteSemilatticeInf` instance?

**Review by YaelDillies — COMMENTED** [review]
Nice work! I think this can be golfed

File: Mathlib/Order/Nucleus.lean (hunk 3 above)
Comment (eric-wieser) [inline Mathlib/Order/Nucleus.lean:145]: I think it would be better to use the named notation here
```suggestion
  sInf s :=
    { toFun := sInf_fun s
      map_inf' := sInf_fun_map_inf
      idempotent' := sInf_fun_idempotent
      le_apply' := by simp [sInf_fun,le_apply] }
```

File: Mathlib/Order/Nucleus.lean [hunk 4]
```diff
@@ -111,4 +111,43 @@ instance : BoundedOrder (Nucleus X) where
...
+
+instance : CompleteSemilatticeInf (Nucleus X) where
+  sInf_le := (by simp_all [sInf, LE.le, sInf_fun, sInf_le_iff,lowerBounds])
+  le_sInf := (by simp_all [sInf, sInf_fun, LE.le])
```
Comment (eric-wieser) [inline Mathlib/Order/Nucleus.lean:149]: Instead of unfolding `sInf`, you should add a theorem that `⇑(sInf s) = sInf {j x | j ∈ s}`

File: Mathlib/Order/Nucleus.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Order/Nucleus.lean:145]: I don't think we want to inline it there, but I think we could inline it here.

Comment (Bergschaf) [reply Mathlib/Order/Nucleus.lean]: I just put everything into the InfSet instance, is this what you meant by inlining?

File: Mathlib/Order/Nucleus.lean [hunk 5]
```diff
@@ -111,4 +111,31 @@ instance : BoundedOrder (Nucleus X) where
   bot_le _ _ := le_apply
   le_top _ _ := by simp
 
+instance : InfSet (Nucleus X) where
+  sInf s :=
+  { toFun x := ⨅ j ∈ s, j x,
+    map_inf' x y:= (by
```
Comment (eric-wieser) [inline Mathlib/Order/Nucleus.lean:117]: style nit:
```suggestion
    map_inf' x y := by
```
(and below)

File: Mathlib/Order/Nucleus.lean [hunk 6]
```diff
@@ -111,4 +111,31 @@ instance : BoundedOrder (Nucleus X) where
...
+    idempotent' x := (by
+      simp only [le_iInf_iff, iInf_le_iff]
+      intro a ha b h
+      rw [← idempotent]
+      apply le_trans (h a ha)
+      gcongr
+      simp_all [iInf_le_iff])
+    le_apply' x := (by simp [le_apply])}
+
+theorem sInf_apply (s : Set (Nucleus X)) (x : X) : sInf s x = ⨅ j ∈ s, j x := rfl
```
Comment (eric-wieser) [inline Mathlib/Order/Nucleus.lean:133]: Can you add an `iInf` lemma as well?

File: Mathlib/Order/Nucleus.lean [hunk 7]
```diff
@@ -111,4 +111,34 @@ instance : BoundedOrder (Nucleus X) where
...
+instance : InfSet (Nucleus X) where
+  sInf s :=
+  { toFun x := ⨅ j ∈ s, j x,
+    map_inf' x y := by
+      simp only [InfHomClass.map_inf]
+      apply le_antisymm
+      · simp_all only [le_inf_iff, le_iInf_iff, iInf_le_iff, implies_true, and_self]
+      · simp only [le_iInf_iff, le_inf_iff]
+        refine fun _ _ ↦ ⟨inf_le_of_left_le ?_, inf_le_of_right_le ?_⟩
+        all_goals simp_all [iInf_le_iff]
```
Comment (YaelDillies) [inline Mathlib/Order/Nucleus.lean:123]: Here's a golf
```suggestion
  { toFun x := ⨅ f ∈ s, f x,
    map_inf' x y := by
      simp only [InfHomClass.map_inf, le_antisymm_iff, le_inf_iff, le_iInf_iff]
      refine ⟨⟨?_, ?_⟩, ?_⟩ <;> rintro f hf
      · exact iInf₂_le_of_le f hf inf_le_left
      · exact iInf₂_le_of_le f hf inf_le_right
      · exact ⟨inf_le_of_left_le <| iInf₂_le f hf, inf_le_of_right_le <| iInf₂_le f hf⟩
```

File: Mathlib/Order/Nucleus.lean [hunk 8]
```diff
@@ -111,4 +111,33 @@ instance : BoundedOrder (Nucleus X) where
...
+      rw [← idempotent]
+      apply le_trans (h a ha)
+      gcongr
+      simp_all [iInf_le_iff]
+    le_apply' x := by simp [le_apply]}
+
+theorem sInf_apply (s : Set (Nucleus X)) (x : X) : sInf s x = ⨅ j ∈ s, j x := rfl
+
+theorem iInf_apply {ι : Type*} (s : ι → (Nucleus X)) (x : X) :
+    iInf s x = ⨅ j ∈ Set.range s, j x := by simp [iInf, sInf_apply]
```
Comment (eric-wieser) [inline Mathlib/Order/Nucleus.lean:135]:
```suggestion
    iInf s x = ⨅ j, f j x := sorry
```
is the statement you should be aiming for.

File: Mathlib/Order/Nucleus.lean [hunk 9]
```diff
@@ -111,4 +111,33 @@ instance : BoundedOrder (Nucleus X) where
...
+
+instance : CompleteSemilatticeInf (Nucleus X) where
+  sInf_le := (by simp_all [LE.le, sInf_apply, iInf_le_iff])
+  le_sInf := (by simp_all [LE.le, sInf_apply])
```
Comment (eric-wieser) [inline Mathlib/Order/Nucleus.lean:139]: Is there a lemma that saves you needing `LE.le` here?

Comment (Bergschaf) [reply Mathlib/Order/Nucleus.lean:143]: I'm not aware of one...

File: Mathlib/Order/Nucleus.lean [hunk 10]
```diff
@@ -111,4 +111,37 @@ instance : BoundedOrder (Nucleus X) where
...
+      rw [← idempotent]
+      apply le_trans (h a ha)
+      gcongr
+      simp_all [iInf_le_iff]
+    le_apply' x := by simp [le_apply]}
+
+theorem sInf_apply (s : Set (Nucleus X)) (x : X) : sInf s x = ⨅ j ∈ s, j x := rfl
+
+theorem iInf_apply {ι : Type*} (f : ι → (Nucleus X)) (x : X) :
+    iInf f x = ⨅ j, f j x := by
```
Comment (YaelDillies) [inline Mathlib/Order/Nucleus.lean:135]: Make both simp

File: Mathlib/Order/Nucleus.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/Order/Nucleus.lean:143]:
```suggestion
  sInf_le := by simp [← coe_le_coe]
  le_sInf := by simp [← coe_le_coe]
```

File: Mathlib/Order/Nucleus.lean [hunk 11]
```diff
@@ -111,4 +111,37 @@ instance : BoundedOrder (Nucleus X) where
...
+
+@[simp] theorem iInf_apply {ι : Type*} (f : ι → (Nucleus X)) (x : X) :
+    iInf f x = ⨅ j, f j x := by
+  simp only [iInf, sInf_apply]
+  apply le_antisymm
+  all_goals simp_all [sInf_le_iff, lowerBounds]
+  exact fun a b a_1 a_2 a_3 ↦ le_of_le_of_eq (a_1 a_2) (congrFun (congrArg DFunLike.coe a_3) x)
+
+instance : CompleteSemilatticeInf (Nucleus X) where
+  sInf_le := by simp_all [← coe_le_coe, Pi.le_def, iInf_le_iff]
```
Comment (YaelDillies) [inline Mathlib/Order/Nucleus.lean:142]:
```suggestion
  sInf_le := by simp_all [← coe_le_coe, Pi.le_def]
```

**Review by YaelDillies — APPROVED** [review]
I pushed a final golf. LGTM, thanks! 🚀

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
